US05124069
In 40 ml of ethanol were dissolved 10 g of 3-chlorohydroxybenzoic acid and 8 g of octyl bromide, and 40 ml a 2N aqueous solution of potassium hydroxide was added to the solution and the mixture was refluxed for 6 hours. The solution was made acidic and the precipitated crystal was recovered and recrystallized from an ethanol/water mixed solvent to obtain 9.5 g of 3-chloro-4-octyloxybenzoic acid.

reactant | 3-chlorohydroxybenzoic acid | 10 g | ClC=1C(=C(C(=O)O)C=CC1)O | C7H5ClO3
reactant | octyl bromide | 8 g | C(CCCCCCC)Br | C8H17Br
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-chloro-4-octyloxybenzoic acid | 9.5 g | ClC=1C=C(C(=O)O)C=CC1OCCCCCCCC | C15H21ClO3
